US09023853B2
To a solution of 1-(3-bromo-phenyl)-piperazine (about 1 g) and acetic acid (about 0.4 mL) in methanol (about 25 mL) is added 37% formaldehyde in water/methanol (about 56.7:37:6.3, water:formaldehyde:methanol; about 5 mL). The mixture is stirred at room temperature for about 18 hours. The suspension is cooled to about 5° C. in an ice/water bath and sodium cyanoborohydride (about 5 g) is added in small portions. The mixture is stirred and warmed to room temperature for about 18 hours. The mixture is slowly poured into saturated aqueous ammonium chloride (about 200 mL) and stirred for about 1 hour. The mixture is extracted with dichloromethane (3× about 75 mL). The combined organic layers are dried over magnesium sulfate, filtered and evaporated. The material is placed under high vacuum for about 18 hours to yield 1-(3-bromo-phenyl)-4-methyl-piperazine as a pale yellow oil (about 1 g). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.10 (dd, J=8.2, 8.2 Hz, 1H), 7.04 (dd, J=2.1, 2.1 Hz, 1H), 6.95 (ddd, J=7.8, 1.7, 0.7 Hz, 1H), 6.83 (ddd, J=8.3, 2.4, 0.6 Hz, 1H), 3.23-3.18 (m, 4H), 2.58-2.54 (m, 4H), 2.35 (s, 3H). MS=255, 257 (MH)+.

reactant | 1-(3-bromo-phenyl)-piperazine | about 1 g | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | about 5 g | C(#N)[BH3-].[Na+]
reactant | ammonium chloride | about 200 mL | [Cl-].[NH4+]
solvent | methanol | about 25 mL | CO | CH4O
solvent | water methanol | about 5 mL | O.CO
solvent | acetic acid | about 0.4 mL | C(C)(=O)O | C2H4O2
product | 1-(3-bromo-phenyl)-4-methyl-piperazine | about 1 g | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
